US04162154
Benzoyl chloride (5.6g) in diethyl ether (50 ml) was added dropwise with vigorous stirring to a solution of 3-(2-hydroxy-1,1-dimethylethyl)-4-hydroxyphenyl methanesulphonate in aqueous sodium hydroxide solution (1.6g in 100 ml water). The mixture was stirred for three hours at room temperature, then separated, and the ether solution washed with dilute sodium hydroxide solution followed by water. Drying over magnesium sulphate and running down gave 4.5g of an oil. Crystallization from ethanol gave 0.7g of 3-(2-benzoyloxy-1,1-dimethyl-ethyl)-4-benzoyloxyphenyl methanesulphonate, m.p. 100°-101° C. Removal of the solvent from the mother liquors gave 2.5g of 3-(2-benzoyloxy-1,1-dimethyl-ethyl)-4-hydroxyphenyl methanesulphonate as a viscous oil.

reactant | Benzoyl chloride | 5.6g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 3-(2-hydroxy-1,1-dimethylethyl)-4-hydroxyphenyl methanesulphonate | CS(=O)(=O)OC1=CC(=C(C=C1)O)C(CO)(C)C | C11H16O5S
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | sodium hydroxide | 100 ml, 1.6g | [OH-].[Na+]
product | 3-(2-benzoyloxy-1,1-dimethyl-ethyl)-4-benzoyloxyphenyl methanesulphonate | 0.7g | CS(=O)(=O)OC1=CC(=C(C=C1)OC(C1=CC=CC=C1)=O)C(COC(C1=CC=CC=C1)=O)(C)C | C25H24O7S
